US04788195
4-[[4-(3-Pyridinyl)-2-pyrimidinyl]amino]benzoic acid
To a solution of 19.89 g of 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoic acid, ethyl ester in 200 ml of 3A ethanol was added 12.5 ml of 10N sodium hydroxide. This mixture was refluxed on a steam bath for 3 hours and then allowed to evaporate. The residue was taken up in water and treated with 10.4 ml of concentrated hydrochloric acid. The resulting solid was collected and dried, giving 18.11 g of the desired product, mp 311°-317° C.

reactant | 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoic acid, ethyl ester | 19.89 g | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)OCC)C=C1 | C18H16N4O2
reactant | sodium hydroxide | 10N, 12.5 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[[4-(3-Pyridinyl)-2-pyrimidinyl]amino]benzoic acid | 18.11 g | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C16H12N4O2
